datasets/RMG-dataset.csv
rxn,Ea
[C:0]1([H:10])[C:1]([H:11])=[C:2]([H:12])[C:3]([H:13])([H:14])[C:4]1([C:5]1=[C:6]([H:16])[C:7]([H:17])([H:18])[C:8]([H:19])=[C:9]1[H:20])[H:15]>>[C:0]([C:1](=[C:2]([C:3]([H:13])[H:14])[H:12])[H:11])(=[C:4]([C:5]1=[C:6]([H:16])[C:7]([H:17])([H:18])[C:8]([H:19])=[C:9]1[H:20])[H:15])[H:10],176.9832
[C:0]([C:1]([C:2]([H:10])([H:11])[H:12])[C:3]([C:4]([O:5][O:6][H:17])([H:15])[H:16])([H:13])[H:14])([H:7])([H:8])[H:9].[O:18][O:19]>>[C:0]([C:1]([C:2]([H:10])([H:11])[H:12])([C:3]([C:4]([O:5][O:6][H:17])([H:15])[H:16])([H:13])[H:14])[O:18][O:19])([H:7])([H:8])[H:9],-1.7459832
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([H:5])[H:6])[H:4].[C:10](=[C:11]([C:12]([C:13]([H:19])([H:20])[H:21])[C:14](=[C:15]([H:23])[H:24])[H:22])[H:18])([H:16])[H:17]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[H:6])[H:4].[H:5][C:12]([C:11](=[C:10]([H:16])[H:17])[H:18])([C:13]([H:19])([H:20])[H:21])[C:14](=[C:15]([H:23])[H:24])[H:22],66.1072
[C:0](#[C:1][H:3])[H:2].[C:4][H:5]>>[C:0]#[C:1][H:3].[H:2][C:4][H:5],-0.51
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[C:12](=[C:13]([C:14]([S:15][H:21])([H:19])[H:20])[H:18])([H:16])[H:17]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[H:19])[H:5].[C:12](=[C:13]([C:14]([S:15][H:21])[H:20])[H:18])([H:16])[H:17],17.9912
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])=[C:4]=[C:5]([H:10])[H:11])[H:6].[C:12]([C:13]([C:14]([H:19])([H:20])[H:21])[H:18])([H:15])([H:16])[H:17]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]=[C:5]([H:10])[H:11])[C:13]([C:12]([H:15])([H:16])[H:17])([C:14]([H:19])([H:20])[H:21])[H:18])[H:6],28.0746
[c:0]1([H:15])[c:1]([H:16])[c:2]([H:17])[c:3]([C:4]([C:5]([O:6][c:7]2[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]([H:25])[c:12]2[H:26])([H:20])[H:21])([H:18])[H:19])[c:13]([H:27])[c:14]1[H:28]>>[O:6]=[C:7]1[C:8]([H:18])([H:22])[C:9]([H:23])=[C:10]([H:24])[C:11]([H:25])=[C:12]1[H:26].[c:0]1([H:15])[c:1]([H:16])[c:2]([H:17])[c:3]([C:4](=[C:5]([H:20])[H:21])[H:19])[c:13]([H:27])[c:14]1[H:28],205.016
[C:0](=[C:1]([c:2]1[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]1[H:15])[H:10])([H:8])[H:9].[C:16]([H:17])([H:18])[H:19]>>[C:0]([C:1]([c:2]1[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]1[H:15])([H:10])[C:16]([H:17])([H:18])[H:19])([H:8])[H:9],35.7314
[C:0]([C:1](=[C:2]([C:3]([c:4]1[c:5]([H:16])[c:6]([H:17])[c:7]([H:18])[c:8]([H:19])[c:9]1[H:20])([H:14])[H:15])[H:13])[H:12])([H:10])[H:11]>>[C:0]1([H:10])([H:11])[C:1]([H:12])=[C:2]([H:13])[C:3]([H:14])([H:15])[C:4]2[C:5]1([H:16])[C:6]([H:17])=[C:7]([H:18])[C:8]([H:19])=[C:9]2[H:20],110.61
[C:0](#[C:1][C:2]([C:3]([C:4]([C:5](=[C:6]([C:7]([H:16])([H:17])[H:18])[C:8]([H:19])([H:20])[H:21])[H:15])([H:13])[H:14])([H:11])[H:12])[H:10])[H:9]>>[C:0](#[C:1][C:2]1([H:10])[C:3]([H:11])([H:12])[C:4]([H:13])([H:14])[C:5]1([C:6]([C:7]([H:16])([H:17])[H:18])[C:8]([H:19])([H:20])[H:21])[H:15])[H:9],93.3032
[C:0]([C:1]([C:2]1([H:13])[C:3]([H:14])([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]1([H:22])[H:23])([H:11])[H:12])([H:8])([H:9])[H:10].[O:24][O:25][H:26]>>[C:0]([C:1]([C:2]1([H:13])[C:3]([H:14])([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]1([H:22])[H:23])([H:11])[H:12])([H:9])[H:10].[H:8][O:24][O:25][H:26],73.203264
[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3](=[S:4])[H:12])[H:8])([H:5])([H:6])[H:7].[c:13]1[c:14]([H:19])[c:15]([H:20])[c:16]([H:21])[c:17]([H:22])[c:18]1[H:23]>>[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])[C:3](=[S:4])[H:12])([H:5])([H:6])[H:7].[H:8][c:13]1[c:14]([H:19])[c:15]([H:20])[c:16]([H:21])[c:17]([H:22])[c:18]1[H:23],-28.4512
[C:0](=[C:1]([C:2]#[C:3][C:4]([H:8])([H:9])[H:10])[H:7])([H:5])[H:6].[C:11](=[C:12]([H:14])[H:15])[H:13]>>[C:0](=[C:1]([C:2]=[C:3]([C:4]([H:8])([H:9])[H:10])[C:11](=[C:12]([H:14])[H:15])[H:13])[H:7])([H:5])[H:6],8.9956
[C:0](=[C:1][C:2]([H:5])([H:6])[H:7])([H:3])[H:4].[C:8]([C:9](=[C:10]([C:11]([H:17])([H:18])[H:19])[C:12]([H:20])([H:21])[H:22])[H:16])([H:13])([H:14])[H:15]>>[C:0](=[C:1]([C:2]([H:5])([H:6])[H:7])[C:9]([C:8]([H:13])([H:14])[H:15])([C:10]([C:11]([H:17])([H:18])[H:19])[C:12]([H:20])([H:21])[H:22])[H:16])([H:3])[H:4],9.91608
[C:0](#[C:1][C:2](=[S:3])[H:5])[H:4].[C:6]([c:7]1[c:8]([H:15])[c:9]([H:16])[c:10]([H:17])[c:11]([H:18])[c:12]1[H:19])([H:13])[H:14]>>[C:0](#[C:1][C:2]=[S:3])[H:4].[H:5][C:6]([c:7]1[c:8]([H:15])[c:9]([H:16])[c:10]([H:17])[c:11]([H:18])[c:12]1[H:19])([H:13])[H:14],173.644
[C:0](=[C:1]([C:2]([O:3][O:4])([H:8])[H:9])[H:7])([H:5])[H:6]>>[C:0](=[C:1]=[C:2]([H:8])[H:9])([H:5])[H:6].[O:3][O:4][H:7],178.657
[C:0]([S:1][H:5])([H:2])([H:3])[H:4].[S:6]=[C:7]([C:8]([S:9][H:12])[H:11])[H:10]>>[C:0]([S:1])([H:2])([H:3])[H:4].[H:5][C:8]([C:7](=[S:6])[H:10])([S:9][H:12])[H:11],68.6176
[C:0]([C:1]([O:2][H:7])=[S:3])([H:4])([H:5])[H:6].[H:8]>>[C:0]([C:1]([O:2][H:7])[S:3][H:8])([H:4])([H:5])[H:6],-1.4644
